US06943159B1
5-Iodo-2-aminobenzenesulfonamide:
To a cold (0° C.) stirred solution of 2-aminobenzenesulfonamide (17.2 g; 100 mmol) in CHCl3 (200 ml) was added a solution of iodine monochloride (17.1 g; 105 mmol) in CHCl3 (50 ml) over 1 h. The reaction mixture was slowly warmed up to rt. and left with stirring over night. The reaction mixture was filtered and the isolated solid was washed on the filter with CHCl3 (3×20 ml), NaHCO3 (sat. aq., 1×20 ml), H2O (4×50 ml). The isolated solid was air dried to give 27.3 g (92%) of product.

reactant | 2-aminobenzenesulfonamide | 100 mmol, 17.2 g | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | iodine monochloride | 105 mmol, 17.1 g | ICl | ClI
solvent | CHCl3 | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Iodo-2-aminobenzenesulfonamide | 27.3 g, 92% | IC=1C=CC(=C(C1)S(=O)(=O)N)N | C6H7IN2O2S
